US06248770B1
b. 4-[1-(cyclopentylcarbonyl)cyclopropy]-2-nitro-chlorobenzene
Prepared analogously to Example 1a from 4-[1-(cyclopentylcarbonyl)cyclopropyl]-chlorobenzene and fuming nitric acid.

reactant | 4-[1-(cyclopentylcarbonyl)cyclopropyl]-chlorobenzene | C1(CCCC1)C(=O)C1(CC1)C1=CC=C(C=C1)Cl | C15H17ClO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4-[1-(cyclopentylcarbonyl)cyclopropy]-2-nitro-chlorobenzene | C1(CCCC1)C(=O)C1(CC1)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C15H16ClNO3
